US04369325
A mixture of 8.3 g (28.3 mmoles) of 1,3-bis(2',6'-dimethylphenyl)-2-imino-imidazolidine, prepared as described in Example 1, Method (a), 150 ml of methyl-ethyl-ketone, 10.0 g (0.1 moles) of potassium hydrogencarbonate and 1.85 ml (4.26 g, 30 mmoles) of methyl iodide is stirred at room temperature for 8 hours. The separated precipitate is filtered off, and the filtrate is evaporated in vacuo. The residue is combined with the precipitate obtained with the previous operation, suspended in 150 ml of water, allowed to stand for 2 hours, and then the insolubles are filtered off. 10.15 g (82.4%) of crude 1,3-bis(2',6'-dimethylphenyl)-2-methylimino-imidazolidine hydroiodide are obtained.

reactant | 1,3-bis(2',6'-dimethylphenyl)-2-imino-imidazolidine | 28.3 mmoles, 8.3 g | CC1=C(C(=CC=C1)C)N1C(N(CC1)C1=C(C=CC=C1C)C)=N | C19H23N3
reactant | methyl-ethyl-ketone | 150 ml | CC(=O)CC | C4H8O
reactant | potassium hydrogencarbonate | 0.1 moles, 10.0 g | C(O)([O-])=O.[K+]
reactant | methyl iodide | 30 mmoles, 1.85 ml, 4.26 g | CI | CH3I
solvent | water | 150 ml | O | H2O
product | 1,3-bis(2',6'-dimethylphenyl)-2-methylimino-imidazolidine hydroiodide | 10.15 g, 82.4% | I.CC1=C(C(=CC=C1)C)N1C(N(CC1)C1=C(C=CC=C1C)C)=NC | InChI=1S/C20H25N3.HI/c1-14-8-6-9-15(2)18(14)22-12-13-23(20(22)21-5)19-16(3)10-7-11-17(19)4;/h6-11H,12-13H2,1-5H3;1H
